US07078425B2
3-Chloro-2-methoxy-5,6-dimethyl-phenylamine (4.9 g, 26 mmol) is dissolved in dichloromethane (20 mL) and pyridine (8 mL) and cooled to 0° C. Acetic anhydride (3.7 mL, 39 mmol) and DMAP (85 mg, 0.7 mmol) are added and the reaction is allowed to warm to room temperature. After stirring 2 h, the reaction is diluted with EtOAc (500 mL) and washed with water, 2N HCl (2×50 mL), water, brine and dried over MgSO4 and concentrated. The crude reaction mixture is dissolved in dichloromethane and a minimal amount of MeOH and then added to a dry pad of silica gel. The product is eluted with 50 to 80% EtOAc/hexanes to provide N-(3-chloro-2-methoxy-5,6-dimethyl-phenyl)-acetamide.

reactant | 3-Chloro-2-methoxy-5,6-dimethyl-phenylamine | 26 mmol, 4.9 g | ClC=1C(=C(C(=C(C1)C)C)N)OC | C9H12ClNO
reactant | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetic anhydride | 39 mmol, 3.7 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | MeOH | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.7 mmol, 85 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | N-(3-chloro-2-methoxy-5,6-dimethyl-phenyl)-acetamide | ClC=1C(=C(C(=C(C1)C)C)NC(C)=O)OC | C11H14ClNO2
